simulator lang=spectre
global 0

ahdl_include "./dut/soft_voltage_clamp_behavior.va"

Vin (vin 0) vsource type=pwl wave=[0 -0.4 10n -0.4 10.1n 0.2 20n 0.2 20.1n 0.8 30n 0.8 30.1n 0.5 45n 0.5]
XDUT (vin vout 0) soft_voltage_clamp_behavior

simulatorOptions options evas_profile=balanced

tran tran stop=40n maxstep=25p
save vin vout
